### PR TITLE
[Merged by Bors] - refactor: make `Order.succ_eq_add_one` a `simp` lemma

### PR DESCRIPTION
**Pull request by vihdzp**
This has been the intention since the `SuccAddOrder` typeclass was introduced; after #35553, we can finally go ahead with this.

A lot of lemmas about ordinals are still stated using `succ x` instead of `x + 1`. Fixing this will be the work of many subsequent PRs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vihdzp** [comment]
!bench

**Comment by leanprover-radar** [comment]
Benchmarking 8ba483524aba5897c1eb966e6fd85db424292c28 against 2d6247196524215d9beb18820e09d6bd5537bf8e ([preliminary results](https://radar.lean-lang.org/repos/mathlib4/commits/8ba483524aba5897c1eb966e6fd85db424292c28?reference=2d6247196524215d9beb18820e09d6bd5537bf8e)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

File: Mathlib/SetTheory/Cardinal/Cofinality.lean [hunk 1]
```diff
@@ -397,6 +397,13 @@ theorem cof_succ (o) : cof (succ o) = 1 := by
     simpa [lt_iff_le_and_ne, Cardinal.zero_le] using fun h =>
       succ_ne_zero o (cof_eq_zero.1 (Eq.symm h))
 
+theorem cof_add_one (o) : cof (o + 1) = 1 :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality.lean:400]: Shouldn't this be simp?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -70,10 +70,9 @@ theorem lift_add (a b : Ordinal.{v}) : lift.{u} (a + b) = lift.{u} a + lift.{u}
       ⟨(RelIso.preimage Equiv.ulift _).trans
           (RelIso.sumLexCongr (RelIso.preimage Equiv.ulift _) (RelIso.preimage Equiv.ulift _)).symm⟩
 
-@[simp]
+-- TODO: deprecate
 theorem lift_succ (a : Ordinal.{v}) : lift.{u} (succ a) = succ (lift.{u} a) := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]: Where is `lift_add_one`?

**Review by YaelDillies — COMMENTED** [review]
Would actually deprecating the `succ` lemmas significantly increase the size of the diff?

File: Mathlib/SetTheory/Cardinal/Cofinality.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Cofinality.lean:400]: This can be proven from `cof_add` a few lines down.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: I've added that one.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by ocfnash — APPROVED** [review]
bors merge
